US07071184B2
a. Allyl-(1-methyl-pent-4-enylidene)-amine Allyl-(1-methyl-pent-4-enyl)-amine
Hex-5-en-2-one (9.8 g, 11.6 ml, 100 mmol) was added to a stirred solution of allylamine (8.55 mmol, 11.25 ml, 150 mmol), 4 Angstrom molecular sieves (52 g), and p-toluene sulfonic acid (10 mg) in CH2Cl2 (200 ml) and was stirred overnight. The reaction mixture was concentrated in vacuo by rotary evaporation and was used in the next reaction without further purification (13 g, 95%). Electrospray mass spec: M+H+=137.9

reactant | Hex-5-en-2-one | 100 mmol, 11.6 ml, 9.8 g | CC(CCC=C)=O | C6H10O
reactant | allylamine | 8.55 mmol, 11.25 ml | C(C=C)N | C3H7N
reactant | p-toluene sulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Allyl-(1-methyl-pent-4-enylidene)-amine Allyl-(1-methyl-pent-4-enyl)-amine | C(C=C)NC(CCC=C)C.C(C=C)N=C(CCC=C)C | InChI=1S/C9H17N.C9H15N/c2*1-4-6-7-9(3)10-8-5-2/h4-5,9-10H,1-2,6-8H2,3H3;4-5H,1-2,6-8H2,3H3
